US07468375B2
Step 2: Ethyl 1-(4-fluorobenzyl)-4-(3-hydroxypropyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate.
To a solution of ethyl 1-(4-fluorobenzyl)-4-(3-hydroxyprop-1-yn-1-yl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate (0.46 g, 1.31 mmol) in MeOH (6 mL) was added palladium, (10 wt. % on activated carbon, 15 mg, 0.014 mmol). The resulting mixture was stirred for 4 h at room temperature under H2 at 60 psi. The mixture was filtered and concentrated to afford the title product as yellow oil (0.41 g, 88% yield). LC-MS (APCI, M+H+): 357.2. HPLC: 96% purity.

reactant | ethyl 1-(4-fluorobenzyl)-4-(3-hydroxyprop-1-yn-1-yl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 1.31 mmol, 0.46 g | FC1=CC=C(CN2C=CC=3C2=CN=C(C3C#CCO)C(=O)OCC)C=C1 | C20H17FN2O3
solvent | MeOH | 6 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | Ethyl 1-(4-fluorobenzyl)-4-(3-hydroxypropyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 0.41 g, 88% yield | FC1=CC=C(CN2C=CC=3C2=CN=C(C3CCCO)C(=O)OCC)C=C1 | C20H21FN2O3
